US04362666
To the solution of 140 mg of 2-methyl-1,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine in 5 ml of tetrahydrofuran, 2 ml of 1-molar diborane in tetrahydrofuran are added while stirring and cooling in ice. The mixture is allowed to stir at room temperature overnight and is then refluxed for 4 hours. After cooling to room temperature it is combined with 0.5 ml of glacial acetic acid, evaporated and the residue basified with 3 N aqueous sodium hydroxide. The mixture is extracted with methylene chloride, the extract dried, evaporated and the residue dissolved in diethyl ether. The solution is filtered and the filtrate evaporated to yield the 2-methyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine, which is identical with that obtained according to Example 1; its monomaleate melts at 176°-178°.

reactant | 2-methyl-1,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | 140 mg | CN1C(C2N(C3=C(CN4C2=CC=C4)C=CC=C3)C(C1)=O)=O | C16H15N3O2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diborane | 1-molar, 2 ml | B#B | B2
product | 2-methyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C16H19N3
